US09376422B2
Step 4: synthesis of 5-chloro-N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-3-(ethyl(4-oxocyclohexyl)amino)-2-methylbenzamide
To a stirred solution of 5-chloro-N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-3-(ethyl(1,4-dioxaspiro[4.5]decan-8-yl)amino)-2-methylbenzamide (2.0 g, 4.1 mmol) in acetone: water (14 mL+6 mL) was added PTSA (3.1 g, 16 mmol). The resulting reaction mixture was stirred at 70° C. overnight. On completion, the solvent was removed under reduced pressure and the residue was basified with aqueous sodium bicarbonate. The aqueous phase was extracted with ethyl acetate. The combined organic layers were washed with water, dried, concentrated under reduced pressure to give the title compound (1.5 g, 83%) which was used directly in the next step.

reactant | 5-chloro-N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-3-(ethyl(1,4-dioxaspiro[4.5]decan-8-yl)amino)-2-methylbenzamide | 4.1 mmol, 2.0 g | ClC=1C=C(C(=C(C(=O)NCC=2C(NC(=CC2C)C)=O)C1)C)N(C1CCC2(OCCO2)CC1)CC | C26H34ClN3O4
reactant | water | 14 mL | O | H2O
reactant | PTSA | 16 mmol, 3.1 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | acetone | CC(=O)C | C3H6O
product | 5-chloro-N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-3-(ethyl(4-oxocyclohexyl)amino)-2-methylbenzamide | 1.5 g, 83% | ClC=1C=C(C(=C(C(=O)NCC=2C(NC(=CC2C)C)=O)C1)C)N(C1CCC(CC1)=O)CC | C24H30ClN3O3
